US09388189B2
(S)-3-(Methylsulfonamido)-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate
(S)-3-(Methylsulfonamido)-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate (82 mg, 0.07 mmol) was treated with trifluoroacetic acid (3 ml, 39 mmol) and a solution of ammonia (7N in methanol, 2.5 ml, 18 mmol) according to the method described in Example 27 to give 23 mg (52% yield) of the title compound. Purity 99%.

reactant | (S)-3-(Methylsulfonamido)-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate | 0.07 mmol, 82 mg | CS(=O)(=O)OC1=CC(=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C)NS(=O)(=O)C | C34H40N8O7S2Si
reactant | trifluoroacetic acid | 39 mmol, 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 18 mmol, 7N, 2.5 ml | N | H3N
product | (S)-3-(Methylsulfonamido)-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate | 23 mg, 52% yield | CS(=O)(=O)OC1=CC(=CC(=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)NS(=O)(=O)C | C28H26N8O6S2
